US07732444B2
Intermediate 86: 5-(2-Chloro-pyrimidin-4-yl)-2-methoxy-benzaldehyde:
2,4 dichloropyrimidine and 3-formyl 4-methoxy phenyl boronic acid were coupled following procedure A. LC-MS showed the product was >95% pure and had the expected M+H+ of 249.

reactant | 2,4 dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-formyl 4-methoxy phenyl boronic acid | C(=O)C=1C=C(C=CC1OC)B(O)O | C8H9BO4
product | 5-(2-Chloro-pyrimidin-4-yl)-2-methoxy-benzaldehyde | ClC1=NC=CC(=N1)C=1C=CC(=C(C=O)C1)OC | C12H9ClN2O2
